US09376441B2
To a solution of 1-amino-3-(benzyloxy)-5-chloropyridin-1-ium 2,4,6-trimethylbenzenesulfonate (2.18 g, 5.01 mmol) in DMF (50.0 mL) was added K2CO3 (1.73 g, 12.5 mmol) and the reaction was stirred for 5 minutes. Methyl propiolate (2.11 g, 25.1 mmol) was added and the reaction was stirred overnight open to air to afford a mixture of diastereomers. EtOAc and a saturated aqueous solution of NaHCO3 were added, the layers were separated and the organic layer was washed with brine, dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (5-20% EtOAc in hexanes) to afford methyl 4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridine-3-carboxylate, which was the first eluting diastereomer.

reactant | 1-amino-3-(benzyloxy)-5-chloropyridin-1-ium 2,4,6-trimethylbenzenesulfonate | 5.01 mmol, 2.18 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=CC(=CC(=C1)Cl)OCC1=CC=CC=C1
reactant | K2CO3 | 12.5 mmol, 1.73 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Methyl propiolate | 25.1 mmol, 2.11 g | C(C#C)(=O)OC | C4H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 50.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridine-3-carboxylate | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Cl)N=CC2C(=O)OC | C16H13ClN2O3
